US09351974B2
Step c: Synthesis of 7-chloro-2-methyl-1-(3-methylbutyl)-1,4-dihydropyrido[3,4-b]pyrazin-3(2H)-one
To a stirred solution of N-(4,6-dichloropyridin-3-yl)-N2-(3-methylbutyl)alaninamide (350 mg, 1.15 mmol) in DMF (1.0 mL) was added tri-basic potassium phosphate (250 mg, 1.20 mmol). The reaction mixture was heated to 125° C. and stirred at the same temperature for 3 h. The reaction was then cooled to rt, diluted with water (5 mL) and the aqueous phase was extracted with ethyl acetate (25 mL×3). The combined organic phases were washed with water, dried over Na2SO4 and evaporated to give desired product (Yield: 33%), which was used for next step without any further purifications. 1HNMR (CDCl3, 300 MHz) δ 0.90-1.01 (m, 6H), 1.33 (d, 3H), 1.52-1.75 (m, 2H), 1.80 (s, 1H), 3.10-3.19 (m, 1H), 3.31-3.42 (m, 1H), 4.07 (q, 1H), 6.51 (s, 1H), 7.65 (s, 1H), 9.41 (br s, 1H).

reactant | N-(4,6-dichloropyridin-3-yl)-N2-(3-methylbutyl)alaninamide | 1.15 mmol, 350 mg | ClC1=C(C=NC(=C1)Cl)NC([C@@H](NCCC(C)C)C)=O | C13H19Cl2N3O
reactant | potassium phosphate | 1.20 mmol, 250 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
product | 7-chloro-2-methyl-1-(3-methylbutyl)-1,4-dihydropyrido[3,4-b]pyrazin-3(2H)-one | Yield: 33% | ClC1=CC2=C(NC(C(N2CCC(C)C)C)=O)C=N1 | C13H18ClN3O
